US06664291B2
5-(2,6-Dichloro-4-nitro-phenoxy)-2-methoxy-N-nonyl-benzamide
To a suspension of 5-(2,6-dichloro-4-nitro-phenoxy)-2-methoxy-benzoic acid (150 mg, 0.42 mmol) in CH2Cl2 (2 ml) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (84 mg, 0.44 mmol) and 1-hydroxybenzotriazole hydrate (77 mg, 0.50 mmol) with stirring at RT. To the resulting yellow solution was added nonylamine (154 μl, 0.84 mmol) at RT. The resulting mixture was stirred 2 h at RT then solvent removed under a dry nitrogen stream. The residue was purified by preparative TLC (5% Et2O, 45% hexanes, 50% CH2Cl2) to give the title compound of Step C (173 mg). MS (APCl+) Calc.: 482.1, Found: 483.2 (M+1).

reactant | 5-(2,6-dichloro-4-nitro-phenoxy)-2-methoxy-benzoic acid | 0.42 mmol, 150 mg | ClC1=C(OC=2C=CC(=C(C(=O)O)C2)OC)C(=CC(=C1)[N+](=O)[O-])Cl | C14H9Cl2NO6
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.44 mmol, 84 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 0.50 mmol, 77 mg | O.ON1N=NC2=C1C=CC=C2
reactant | nonylamine | 0.84 mmol, 154 μl | C(CCCCCCCC)N | C9H21N
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | 5-(2,6-Dichloro-4-nitro-phenoxy)-2-methoxy-N-nonyl-benzamide | 173 mg | ClC1=C(OC=2C=CC(=C(C(=O)NCCCCCCCCC)C2)OC)C(=CC(=C1)[N+](=O)[O-])Cl | C23H28Cl2N2O5
